US07488740B2
2. 7-(3-Methylpyridin-2-yl)-N-(5-(trifluoromethyl)pyrimidin-2-yl)-[1,8]naphthyridin-4-amine
Heat a mixture of 5-chloro-2-(3-methylpyridin-2-yl)-[1,8]naphthyridine (51 mg, 0.2 mmol), 2-amino-5-trifluoromethylpyrimidine (42.0 mg, 0.25 mmol), xantphos (11.6 mg, 0.02 mmol), Pd2(dba)3 (18.3 mg, 0.02 mmol) and Cs2CO3 (130 mg, 0.4 mmol) in dioxane (2.0 mL) at 100° C. for 20 hours. Cool the mixture, concentrate under vacuum, dilute with EtOAc/water (5.0 mL each), filter through celite, wash celite with EtOAc (2×5 mL) and dry the combined organic layers with MgSO4. Filter the dried extract and concentrate under vacuum to afford the crude product. Purify by column chromatography using EtOAc as eluent to afford the title compound as a yellow solid. 1H NMR (400 MHZ, DMSO-D6) δ 10.92 (s, 1H), 9.0 (m, 3H), 8.92 (d, 1H, J=1.8 Hz), 8.58 (d, 1H, J=1.0 Hz), 8.12 (m, 2H), 7.80(d, 1H, J=2.1 Hz), 7.41 (dd, 1H), 2.65 (s, 3H). MS=383.3 (M+H).

reactant | 5-chloro-2-(3-methylpyridin-2-yl)-[1,8]naphthyridine | 0.2 mmol, 51 mg | ClC1=C2C=CC(=NC2=NC=C1)C1=NC=CC=C1C | C14H10ClN3
reactant | 2-amino-5-trifluoromethylpyrimidine | 0.25 mmol, 42.0 mg | NC1=NC=C(C=N1)C(F)(F)F | C5H4F3N3
reactant | xantphos | 0.02 mmol, 11.6 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.4 mmol, 130 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 mmol, 18.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(3-Methylpyridin-2-yl)-N-(5-(trifluoromethyl)pyrimidin-2-yl)-[1,8]naphthyridin-4-amine | CC=1C(=NC=CC1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=N1)C(F)(F)F | C19H13F3N6
